US08084448B2
D. 2-Benzyloxy-4-bromo-3,5-difluorophenylamine
To a suspension of NBS (1.60 g, 9.01 mmol) in methylene chloride (20 mL) at 0° C. is added a solution of 2-benzyloxy-3,5-difluorophenylamine (2.12 g, 9.01 mmol) and the mixture is stirred at 0° C. for 30 min then at RT for 30 min. The Mixture is washed with water and the solvent evaporated under reduced pressure. The residue is purified by column chromatography to give the title compound: MS (M−H)−=313.

reactant | NBS | 9.01 mmol, 1.60 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-benzyloxy-3,5-difluorophenylamine | 9.01 mmol, 2.12 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)F)N | C13H11F2NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-Benzyloxy-4-bromo-3,5-difluorophenylamine | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1F)Br)F)N | C13H10BrF2NO
